US06528525B1
(c) Ethyl 3-(4-hydroxyphenyl)-2-phenoxypropionate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 3-(4-benzyloxyphenyl)-2-phenoxypropionate (2.10 g), which is the product of Reference example 4(b) and palladium on carbon (5%, 0.32 g) and the reaction mixture was treated to afford the desired compound (1.01 g) as a syrup.

reactant | ethyl 3-(4-benzyloxyphenyl)-2-phenoxypropionate | 2.10 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1 | C24H24O4
catalyst | palladium on carbon | 0.32 g | [Pd] | Pd
product | Ethyl 3-(4-hydroxyphenyl)-2-phenoxypropionate | 1.01 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1 | C17H18O4
